USRE033024
2.61 g of 8-benzyloxy-5-{(1S)-1-hydroxy-2-[N-((1S)-2-(p-methoxyphenyl)-1-methylethyl)-N-((2S)-1-(2-naphthylsulfonyl)-pyrrolidine-2-carbonyl)amino]ethyl}carbostyril are dissolved in 100 ml of methanol, and 35 ml of 1N potassium hydroxide-methanol and 10 ml of water are added thereto. The mixture is refluxed for 3 hours with stirring. The mixture is concentrated under reduced pressure to remove solvent. The residue is extracted with chloroform, and the extract is dried and concentrated under reduced pressure to remove solvent. The residue is recrystallized twice from ethyl acetate. 1.1 g of 8-benzyloxy-5-{(1S)-1-hydroxy-2-[N-((1S)-2-(p-methoxyphenyl)-1-methylethyl)amino]ethyl}carbostyril are obtained as colorless needles. Yield: 68.8%.

reactant | 8-benzyloxy-5-{(1S)-1-hydroxy-2-[N-((1S)-2-(p-methoxyphenyl)-1-methylethyl)-N-((2S)-1-(2-naphthylsulfonyl)-pyrrolidine-2-carbonyl)amino]ethyl}carbostyril | 2.61 g | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@@H](CN(C(=O)[C@H]1N(CCC1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)[C@H](CC1=CC=C(C=C1)OC)C)O | C43H43N3O7S
reactant | potassium hydroxide methanol | 1N, 35 ml | [OH-].[K+].CO
reactant | water | 10 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 8-benzyloxy-5-{(1S)-1-hydroxy-2-[N-((1S)-2-(p-methoxyphenyl)-1-methylethyl)amino]ethyl}carbostyril | 1.1 g, Yield: 68.8% | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@@H](CN[C@H](CC1=CC=C(C=C1)OC)C)O | C28H30N2O4
